US07220768B2
4-(Dimethylamino)benzaldehyde oxime
A solution of 4-(dimethylamino)benzaldehyde (5.0 g), hydroxylamine hydrochloride (2.3 g), and sodium acetate (2.7 g) in ethanol (61 mL)/water (11 mL) is heated at reflux temperature for 1 hour. The mixture is cooled to ambient temperature and partitioned between diethyl ether and water. The aqueous layer is back-extracted with diethyl ether and the combined organic extracts are washed with saturated sodium chloride, dried over anhydrous sodium sulfate and concentrated under reduced pressure to give 2.6 g pure white solid as the product. MS: m/z 165 (M+H)+.

reactant | 4-(dimethylamino)benzaldehyde | 5.0 g | CN(C1=CC=C(C=O)C=C1)C | C9H11NO
reactant | hydroxylamine hydrochloride | 2.3 g | Cl.NO
reactant | sodium acetate | 2.7 g | C(C)(=O)[O-].[Na+]
reactant | water | 11 mL | O | H2O
solvent | ethanol | 61 mL | C(C)O | C2H6O
product | 4-(Dimethylamino)benzaldehyde oxime | 2.6 g | CN(C1=CC=C(C=NO)C=C1)C | C9H12N2O
